US04443449
1-[1-(4-chlorophenyl)cyclobutyl]propan-2-one prepared as described in Example 3 (25 g) and 98% formic acid (10 ml) were added to formamide (22 ml) at 160° C. The temperature was raised to 175° C. and maintained at this temperature for sixteen hours. The mixture was cooled, extracted with dichloromethane. The extract was washed with water and evaporated to give a gum which was crystallised from petroleum ether (b.p. 40°-60° C.) to give N-formyl-2-[1-(4-chlorophenyl)cyclobutyl]-1-methylethylamine (m.p. 71°-73° C.).

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]propan-2-one | ClC1=CC=C(C=C1)C1(CCC1)CC(C)=O | C13H15ClO
reactant | formamide | 22 ml | C(=O)N | CH3NO
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | N-formyl-2-[1-(4-chlorophenyl)cyclobutyl]-1-methylethylamine | C(=O)NC(CC1(CCC1)C1=CC=C(C=C1)Cl)C | C14H18ClNO
